US04772600
2-(4-Nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
A suspension of crude 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (1.5 g, 0.00503 mole) in absolute ethanol was acidified with 0.5 ml of concentrated sulfuric acid and refluxed under nitrogen for three days. The solution was evaporated to approximately one-third of its original volume (reduced pressure), and saturated sodium bicarbonate solution and ethyl acetate were added. The layers were separated, the aqueous layer was re-extracted with ethyl acetate and the combined organic layers were washed twice with water, dried over sodium sulfate, filtered, and evaporated under reduced pressure to give a solid. The solid was dissolved in hot absolute ethanol and filtered hot. Upon cooling to room temperature, a solid formed which was collected by filtration, rinsed with water, and dried under high vacuum at 50° C. overnight to give 1.17 g (71%) of title compound, mp 191.5°-193.5° C.

reactant | 2-(4-nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.00503 mole, 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10N4O4
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | 2-(4-Nitrophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 1.17 g, 71% | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H14N4O4
